US04067903
N-p-ethoxy-phenyl-α-naphthylamine
288 parts of α-naphthol, 411 parts of p-phenetidine and 10 parts of triphenyl phosphite are mixed and heated to 220° C. At this temperature, the elimination of water commences. In the course of 8 hours, the reaction temperature rises to 250° C, at which stage the reaction has ended. 36 parts of water are removed. After removing excess p-phenetidine, N-p-ethoxy-phenyl-α-naphthylamine distils at a boiling point of 233° - 235° C/5 mm Hg. 510 parts of end product of melting point 73° - 75° C are obtained. This corresponds to a yield of 97% of theory.

reactant | α-naphthol | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | p-phenetidine | CCOC=1C=CC(=CC1)N | C8H11NO
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | water | O | H2O
product | N-p-ethoxy-phenyl-α-naphthylamine | yield of 97% | C(C)OC1=CC=C(C=C1)NC1=CC=CC2=CC=CC=C12 | C18H17NO
